US06921767B2
4-(p-Methoxyphenyl)-but-3-enoic acid.
Boron tribromide (246 mL, 1 M) in dichloromethane was added slowly to a solution of ethyl 1-(p-methoxyphenyl)cyclopropane-2-acetate (60 g, 246 mmol) in dichloromethane (1L) at 0° C. and the reaction mixture was stirred at room temperature for 18 h. It was cooled to 0° C. and was quenched with excess ethanol. The reaction mixture was concentrated and the residue in ethyl acetate (1 L) was washed with saturated sodium bicarbonate (500 mL), washed with brine (500 mL), dried and was concentrated. The residue was purified by passing through a thick pad of silica and eluting with 20% ethyl acetate in hexane to afford 50.2 g (89%) of the desired product. 1H NMR (CD3OD) δ 6.93 (d, 2H, J=8.6 Hz), 6.71 (d, 2H, J=8.6 Hz), 4.15(q, 2H, J=7.1 Hz), 2.37 (d, 2H, J=7.2 Hz), 1.66-1.71 (m,1H), 1.23-1.28 (m, 4H), 0.87-0.91 (m, 1H), 0.75-0.79 (m, 1H).

reactant | Boron tribromide | 1 M, 246 mL | B(Br)(Br)Br | BBr3
reactant | ethyl 1-(p-methoxyphenyl)cyclopropane-2-acetate | 246 mmol, 60 g | COC1=CC=C(C=C1)C1C(C1)CC(=O)OCC | C14H18O3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(p-Methoxyphenyl)-but-3-enoic acid | 50.2 g, 89% | COC1=CC=C(C=C1)C=CCC(=O)O | C11H12O3
